US06552188B2
Synthesis of N-(2-naphthoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine
1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine (103 mg) and 2-naphthoyl chloride (57 mg) were reacted in the same manner as in Example 46 to obtain the title compound as a free base.

reactant | 1-[[2-(3,4,5-Trimethoxyphenyl)pyridin-4-yl]methyl]-piperazine | 103 mg | COC=1C=C(C=C(C1OC)OC)C1=NC=CC(=C1)CN1CCNCC1 | C19H25N3O3
reactant | 2-naphthoyl chloride | 57 mg | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
product | N-(2-naphthoyl)-N′-[[2-(3,4,5-trimethoxyphenyl)pyridin-4-yl]methyl]piperazine | C1=C(C=CC2=CC=CC=C12)C(=O)N1CCN(CC1)CC1=CC(=NC=C1)C1=CC(=C(C(=C1)OC)OC)OC | C30H31N3O4
